US08378095B2
To a solution of N-(tert-butoxycarbonyl)-3-methylaminopropanoic acid (0.022 g, 0.11 mmol) in DMF (1.25 ml) were added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.040 g, 0.11 mmol) and diisopropylethylamine (0.018 ml, 0.11 mmol) followed by 5-(4-aminophenylamino)-2-(2,6-difluorophenyl)oxazole-4-carbonitrile (0.030 g, 0.10 mmol) and the resultant mixture stirred at room temperature overnight. A further portion of N-(tert-butoxycarbonyl)-3-methylaminopropanoic acid (0.022 g, 0.11 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.040 g, 0.11 mmol) and diisopropylethylamine (0.018 ml, 0.11 mmol) was added and the reaction stirred for 2 hours at room temperature. The solvent was removed in vacuo and the residue purified by preparative HPLC to afford tert-butyl 3-(4-(4-cyano-2-(2,6-difluorophenyl)oxazol-5-ylamino)phenylamino)-3-oxopropyl(methyl)carbamate (0.021 g, 0.04 mmol, 44%) as a white solid. LCMS (2) Rt: 3.03 min; m/z (ES+) 498.

reactant | N-(tert-butoxycarbonyl)-3-methylaminopropanoic acid | 0.11 mmol, 0.022 g | C(C)(C)(C)OC(=O)N(CCC(=O)O)C | C9H17NO4
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.11 mmol, 0.040 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 0.11 mmol, 0.018 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-(4-aminophenylamino)-2-(2,6-difluorophenyl)oxazole-4-carbonitrile | 0.10 mmol, 0.030 g | NC1=CC=C(C=C1)NC1=C(N=C(O1)C1=C(C=CC=C1F)F)C#N | C16H10F2N4O
reactant | N-(tert-butoxycarbonyl)-3-methylaminopropanoic acid | 0.11 mmol, 0.022 g | C(C)(C)(C)OC(=O)N(CCC(=O)O)C | C9H17NO4
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.11 mmol, 0.040 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 0.11 mmol, 0.018 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1.25 ml | CN(C)C=O | C3H7NO
product | tert-butyl 3-(4-(4-cyano-2-(2,6-difluorophenyl)oxazol-5-ylamino)phenylamino)-3-oxopropyl(methyl)carbamate | 0.04 mmol, 0.021 g, 44% | C(#N)C=1N=C(OC1NC1=CC=C(C=C1)NC(CCN(C(OC(C)(C)C)=O)C)=O)C1=C(C=CC=C1F)F | C25H25F2N5O4
